US06451785B1
Preparation of (3S,4S)-4-[3-(Methoxycarbonyl)propoxy]-3-(triphenylmethylamino)azetidin-2-one
(3S,4S)-4-[3-(Methoxycarbonyl)propoxy]-3-(triphenylmethylamino)azetidin-2-one (3S,4S)-3-Amino-4-[3-(methoxycarbonyl)propoxy]azetidin-2-one (30 mg, 0.148 mmol) was dissolved in dry dichloromethane (2 mL) and treated with triphenylmethyl chloride (41 mg, 0.148 mmol) followed by diisopropylethylamine (19 mg, 0.148 mmol). The solution was stirred at RT under argon for 5 h, diluted with water and extracted with dichloromethane. The organic phases were combined, washed with water and brine, dried (magnesium sulfate), filtered, and concentrated. The residue was purified by preparative thin layer chromatography (Whatman, silica gel 60A, 20 ×20 cm, 1000 um, 40% ethyl acetate:hexane) to give the title compound (7 mg). MS(ES) m/e 445.2 [M+H].

reactant | (3S,4S)-4-[3-(Methoxycarbonyl)propoxy]-3-(triphenylmethylamino)azetidin-2-one (3S,4S)-3-Amino-4-[3-(methoxycarbonyl)propoxy]azetidin-2-one | 0.148 mmol, 30 mg | N[C@@H]1C(N[C@H]1OCCCC(=O)OC)=O.COC(=O)CCCO[C@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | triphenylmethyl chloride | 0.148 mmol, 41 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | diisopropylethylamine | 0.148 mmol, 19 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (3S,4S)-4-[3-(Methoxycarbonyl)propoxy]-3-(triphenylmethylamino)azetidin-2-one | 7 mg | COC(=O)CCCO[C@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H28N2O4
